US05283361
B. 1-tetrahydropyranyloxy-1-(2-bromophenyl)-prop-2-ene
To 1-(2-bromophenyl)prop-2-en-1-ol) (31.0 g; 0.145 mol) in 150 ml of dry THF (tetrahydrofuran) was added 20 ml of 3,4-dihydro-2H-pyran and then 1 ml of POCl3 and the mixture stirred over the weekend at room temperature. The reaction mixture was neutralized with saturated NaHCO3 and concentrated down. The resulting material was partitioned between water and diethyl ether and the aqueous layer extracted again with diethyl ether. The organics were combined and washed with water and then brine and dried over K2CO3 and concentrated. The crude subtitle compound was chromatographed by HPLC using a solvent gradient from pure hexane to 5% ethyl acetate in hexane to afford the subtitle compound.

reactant | 1-(2-bromophenyl)prop-2-en-1-ol | BrC1=C(C=CC=C1)C(C=C)O | C9H9BrO
reactant | 3,4-dihydro-2H-pyran | 20 ml | O1CCCC=C1 | C5H8O
reactant | POCl3 | 1 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 150 ml | O1CCCC1 | C4H8O
product | 1-tetrahydropyranyloxy-1-(2-bromophenyl)-prop-2-ene | O1C(CCCC1)OC(C=C)C1=C(C=CC=C1)Br | C14H17BrO2
